US04324790
A solution of 6.93 g of 3-(1,2,3,6-tetrahydro-4-pyridinyl)-1H-indole [described in French Pat. No. 2,362,628] dissolved at 100° C. in 70 ml of isobutyl methyl ketone admixed with 11.13 g of sodium carbonate and 14 ml of 2-(2-chloroethoxy)-tetrahydro-2H-pyran was refluxed with stirring under an inert atmosphere for 51/2 hours and was then cooled and poured into ice water. The mixture was extracted with ethyl acetate and the organic phase was washed with water, with aqueous sodium chloride solution, dried and evaporated to dryness. The 9.9 g of crystalline residue was chromatographed over silica gel and eluted with an 85-10-5 chloroform-acetonetriethylamine mixture to obtain 7.85 g of 3-[1-(2-{2-tetrahydropyranyloxy}-ethyl)-1,2,3,6-tetrahydro-4-pyridinyl]-1H-indole in the form of crystals melting at 135° C.

reactant | 3-(1,2,3,6-tetrahydro-4-pyridinyl)-1H-indole | 6.93 g | N1CCC(=CC1)C1=CNC2=CC=CC=C12 | C13H14N2
reactant | sodium carbonate | 11.13 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-(2-chloroethoxy)-tetrahydro-2H-pyran | 14 ml | ClCCOC1OCCCC1 | C7H13ClO2
solvent | isobutyl methyl ketone | 70 ml | CC(=O)CC(C)C | C6H12O
product | 3-[1-(2-{2-tetrahydropyranyloxy}-ethyl)-1,2,3,6-tetrahydro-4-pyridinyl]-1H-indole | 7.85 g | O1C(CCCC1)OCCN1CCC(=CC1)C1=CNC2=CC=CC=C12 | C20H26N2O2
